US05783704
1,3-Bis(pyridin-3-ylmethyleneamino)-4-methyl-1,3-dihydroimidazol-2-one (Compound 5.096 in Table 5)
11.2 g of acetic anhydride are added to a suspension of 32.4 g of 1,3-bis(pyridin-3-ylmethyleneamino)-4-hydroxy-4-methylimidazolidin-2-one in 75 ml of acetic acid. The reaction mixture is then heated to 50°. After 3 hours the reaction mixture is cooled to 20°, then poured onto 800 ml of ice-water and neutralised with 30% sodium hydroxide solution. The aqueous phase is then extracted three times with 200 ml of methylene chloride each time. The organic phase is dried with magnesium sulfate, filtered and concentrated by evaporation. The residue is stirred with ether. The crystals are filtered off with suction and dried. 28.2 g of the title compound having a melting point of 176°-178° are thus obtained.

reactant | acetic anhydride | 11.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,3-bis(pyridin-3-ylmethyleneamino)-4-hydroxy-4-methylimidazolidin-2-one | 32.4 g | N1=CC(=CC=C1)C=NN1C(N(C(C1)(C)O)N=CC=1C=NC=CC1)=O | C16H16N6O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 1,3-Bis(pyridin-3-ylmethyleneamino)-4-methyl-1,3-dihydroimidazol-2-one | N1=CC(=CC=C1)C=NN1C(N(C(=C1)C)N=CC=1C=NC=CC1)=O | C16H14N6O
